US08735387B2
(a) 5-(4-Chloro-benzyl)-2-[4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-3,5-dimethyl-phenyl]-7-propoxy-oxazolo[5,4-d]pyrimidine
A suspension of 0.736 mmol of polystyrene-bound triphenylphosphine (Argonaut) and 128 mg of diethyl azodicarboxylate in 10 ml of tetrahydrofuran was stirred for 15 min at 0° C. Then 260 mg of 4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenol, 81 mg of (2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol and 85 μl of triethylamine were added. The reaction mixture was stirred at room temperature for 3 h. Then another 81 mg of (2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol, 0.736 mmol of polystyrene-bound triphenylphosphine and 128 mg of diethyl azodicarboxylate were added and the reaction mixture was stirred for 18 h. The polymer was filtered off and washed thoroughly with tetrahydrofuran. The solvent was removed in vacuo and the title compound isolated by silica gel chromatography (method SC1) and then by preparative HPLC (method HPLC2).

reactant | diethyl azodicarboxylate | 128 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenol | 260 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)O)C)OCCC)C=C1 | C23H22ClN3O3
reactant | (2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 81 mg | CC1(OCC(O1)CO)C | C6H12O3
reactant | triethylamine | 85 μl | C(C)N(CC)CC | C6H15N
reactant | (2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 81 mg | CC1(OCC(O1)CO)C | C6H12O3
reactant | diethyl azodicarboxylate | 128 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(4-Chloro-benzyl)-2-[4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-3,5-dimethyl-phenyl]-7-propoxy-oxazolo[5,4-d]pyrimidine | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)OCC3OC(OC3)(C)C)C)OCCC)C=C1 | C29H32ClN3O5
